US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-(1,3-thiazol-2-ylmethyl)dihydro-2H-pyran-2,4(3H)-dione
The title compound was prepared analogously to Example B(31), where 1,3-thiazole-2-carbaldehyde was substituted in place of 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione was substituted in place of 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione in final Step of that example.

reactant | 1,3-thiazole-2-carbaldehyde | S1C(=NC=C1)C=O | C4H3NOS
reactant | 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-(1,3-thiazol-2-ylmethyl)dihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC)CCC1(CC(C(C(O1)=O)CC=1SC=CN1)=O)C1CCCC1 | C23H26ClNO4S
